### PR TITLE
[Merged by Bors] - feat: Lipschitz extensions of maps into l^infty

### PR DESCRIPTION
**Pull request by chriscamano**
A function `f : α → ℓ^∞(ι, ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz extension to the whole space.

Co-authored-by: Ian Bunner <31334766+ian-bunner@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by chriscamano** [comment]
Closes https://github.com/leanprover-community/mathlib/issues/11571

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 1]
```diff
@@ -14,35 +14,35 @@ import Mathlib.Topology.Sets.Compacts
...
 
 set_option linter.uppercaseLean3 false
 
-open Set Metric TopologicalSpace
-
-open scoped ENNReal
+open Set Metric TopologicalSpace NNReal ENNReal
 
-local notation "ℓ_infty_ℝ" => lp (fun n : ℕ => ℝ) ∞
+local notation "ℓ^∞(" ι ") " => lp (fun i : ι => ℝ ) ∞
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:29]: Not sure if we need the space after `)` on the LHS. We don't need the space before `)` on the RHS.
```suggestion
local notation "ℓ^∞(" ι ") " => lp (fun i : ι => ℝ) ∞
```

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 2]
```diff
@@ -112,21 +112,80 @@ end KuratowskiEmbedding
...
+-/
+def kuratowskiEmbedding (α : Type u) [MetricSpace α] [SeparableSpace α] : α → ℓ^∞(ℕ) :=
   Classical.choose (KuratowskiEmbedding.exists_isometric_embedding α)
 #align Kuratowski_embedding kuratowskiEmbedding
 
-/-- The Kuratowski embedding is an isometry. -/
+/--
+    The Kuratowski embedding is an isometry.
+    Theorem 2.1 of Metric Embeddings and Lipschitz Extensions by Assaf Naor
+    https://web.math.princeton.edu/~naor/homepage%20files/embeddings_extensions.pdf
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:124]: Should we add it to the bib file?

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 3]
```diff
@@ -112,21 +112,80 @@ end KuratowskiEmbedding
...
+ -/
```
Comment (semorrison) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:125]: Minor, but we don't add extra indenting inside `/-- -/` comment blocks as a rule.

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 4]
```diff
@@ -112,21 +112,80 @@ end KuratowskiEmbedding
...
+/-- The Kuratowski embedding is an isometric embedding of a separable metric space in `ℓ^∞(ℕ, ℝ)`.
+-/
+def kuratowskiEmbedding (α : Type u) [MetricSpace α] [SeparableSpace α] : α → ℓ^∞(ℕ) :=
   Classical.choose (KuratowskiEmbedding.exists_isometric_embedding α)
 #align Kuratowski_embedding kuratowskiEmbedding
 
-/-- The Kuratowski embedding is an isometry. -/
+/--
+    The Kuratowski embedding is an isometry.
+    Theorem 2.1 of Metric Embeddings and Lipschitz Extensions by Assaf Naor
```
Comment (semorrison) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:123]: Could you please add this reference to `references.bib`? You can then cite it here as
`[Assaf Naor, *Metric Embeddings and Lipschitz Extensions*][insert-bibkey-here]`.

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 5]
```diff
@@ -112,21 +112,80 @@ end KuratowskiEmbedding
...
+    A function `f : α → (ι → ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz
+    extension to the whole space.
+
+    Theorem 2.2 of Metric Embeddings and Lipschitz Extensions by Assaf Naor
+    https://web.math.princeton.edu/~naor/homepage%20files/embeddings_extensions.pdf
+
+    The same result for the case of a finite type `ι` is implemented in
+    `LipschitzOnWith.extend_pi`.
+-/
+theorem LipschitzOnWith.extend_linf [PseudoMetricSpace α] {s : Set α} {f : α → ℓ^∞(ι)}
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:149]: Should it be `extend_lp_infty`?

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 6]
```diff
@@ -670,8 +673,8 @@ theorem LipschitzOnWith.extend_real [PseudoMetricSpace α] {f : α → ℝ} {s :
 
 /-- A function `f : α → (ι → ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz
 extension to the whole space.
-TODO: state the same result (with the same proof) for the space `ℓ^∞ (ι, ℝ)` over a possibly
-infinite type `ι`. -/
+The same result (with the same proof) for the space `ℓ^∞ (ι, ℝ)` over a possibly
```
Comment (semorrison) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean:676]: Perhaps you can clarify the "with the same proof" clause here? Clearly what you've done is slightly more work, so it's not actually the same.

**Review by urkud — COMMENTED** [review]
Thank you for working on this! Looks very good! I have a few minor comments. I'll checkout the branch and have a look at the main proof later tonight.

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:29]: Yeah, the spaces are a pretty printing hint, and the notation should be `"ℓ^∞(" ι ")"`

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 7]
```diff
@@ -14,35 +14,35 @@ import Mathlib.Topology.Sets.Compacts
...
+local notation "ℓ^∞(" ι ") " => lp (fun i : ι => ℝ ) ∞
 
 universe u v w
 
 variable {α : Type u} {β : Type v} {γ : Type w}
 
 namespace KuratowskiEmbedding
 
-/-! ### Any separable metric space can be embedded isometrically in ℓ^∞(ℝ) -/
+/-! ### Any separable metric space can be embedded isometrically in ℓ^∞(ℕ, ℝ) -/
```
Comment (kmill) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:37]: Should it be this?
```suggestion
/-! ### Any separable metric space can be embedded isometrically in ℓ^∞(ℕ) -/
```

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 8]
```diff
@@ -112,21 +112,80 @@ end KuratowskiEmbedding
...
 nonrec def NonemptyCompacts.kuratowskiEmbedding (α : Type u) [MetricSpace α] [CompactSpace α]
-    [Nonempty α] : NonemptyCompacts ℓ_infty_ℝ where
+    [Nonempty α] : NonemptyCompacts ℓ^∞(ℕ) where
   carrier := range (kuratowskiEmbedding α)
   isCompact' := isCompact_range (kuratowskiEmbedding.isometry α).continuous
   nonempty' := range_nonempty _
 #align nonempty_compacts.Kuratowski_embedding NonemptyCompacts.kuratowskiEmbedding
+
+/--
+    A function `f : α → (ι → ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz
```
Comment (hrmacbeth) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:140]:
```suggestion
    A function `f : α → ℓ^∞(ι, ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz
```

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 7 above)
Comment (hrmacbeth) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:37]: It seems harmless to abuse notation a bit in docstrings and write this more informative version with both domain and codomain specified ...

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:29]: Given the `ℓ^∞(ι, ℝ)` notation I'm seeing in the comments, perhaps we should make it be usable notation?
```lean
local notation "ℓ^∞(" ι ", " E ")" => lp (fun i : ι => E) ∞
local notation "ℓ^∞(" ι ")" => lp (fun i : ι => ℝ) ∞
```
Should this be scoped notation so others can conditionally use it too in other modules?

File: Mathlib/Topology/MetricSpace/Lipschitz.lean (hunk 6 above)
Comment (chriscamano) [reply Mathlib/Topology/MetricSpace/Lipschitz.lean]: Okay I just deleted the "(with the same proof)" :)

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 9]
```diff
@@ -112,21 +110,77 @@ end KuratowskiEmbedding
...
+        |g i a| = |g i a - f a₀ i + f a₀ i| := by simp
+        _ ≤ |g i a - f a₀ i| + |f a₀ i| := abs_add _ _
+        _ ≤ |g i a - g i a₀| + |g i a₀ - f a₀ i| + |f a₀ i| := by gcongr; apply abs_sub_le
+        _ = |g i a - g i a₀| + |f a₀ i| := by simp [hgr ha₀_in_s]
+        _ ≤ ↑K * dist a a₀ + |f a₀ i| := by
+            gcongr
+            exact lipschitzWith_iff_dist_le_mul.1 hgl a a₀
+        _ ≤ ↑K * dist a a₀ + M := by
+            gcongr
+            exact lp.norm_apply_le_norm top_ne_zero (f a₀) i
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:176]:
```suggestion
      calc
        |g i a| = |g i a - g i a₀ + f a₀ i| := by rw [←hgr ha₀_in_s, sub_add_cancel]
        _ ≤ |g i a - g i a₀| + |f a₀ i| := abs_add _ _
        _ ≤ ↑K * dist a a₀ + M := by
            apply add_le_add
            . exact lipschitzWith_iff_dist_le_mul.1 hgl a a₀
            . exact lp.norm_apply_le_norm top_ne_zero (f a₀) i
```

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 10]
```diff
@@ -112,21 +110,77 @@ end KuratowskiEmbedding
...
+A function `f : α → ℓ^∞(ι, ℝ)` which is `K`-Lipschitz on a subset `s` admits a `K`-Lipschitz
+extension to the whole space.
+
+Theorem 2.2 of [Assaf Naor, *Metric Embeddings and Lipschitz Extensions*][Naor-2015]
+
+The same result for the case of a finite type `ι` is implemented in
+`LipschitzOnWith.extend_pi`.
+-/
+theorem LipschitzOnWith.extend_lp_infty [PseudoMetricSpace α] {s : Set α} {f : α → ℓ^∞(ι)}
+    {K : ℝ≥0} (hfl : LipschitzOnWith K f s): ∃ g : α → ℓ^∞(ι), LipschitzWith K g ∧ EqOn f g s := by
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:145]: One last remark: I think that we should add lemmas saying that `LipschitzOnWith K f s ↔ ∀ i, LipschitzOnWith K (f · i) s` and the same for `LipschitzWith`. The latter lemma follows from the former one for `s = univ`. Then these lemmas can be used on the first and on the last step of your proof.

Probably, the middle part can be generalized to: if a family of maps is Lipschitz continuous in a parameter and is uniformly bounded for 1 value of the parameter, then it is uniformly bounded.

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 9 above)
Comment (hrmacbeth) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:176]: @tb65536 Personally I prefer to avoid calling lemmas like `sub_add_cancel` and `add_le_add` by name ...
```suggestion
      calc
        |g i a| = |g i a - g i a₀ + f a₀ i| := by simp [hgr ha₀_in_s]
        _ ≤ |g i a - g i a₀| + |f a₀ i| := abs_add _ _
        _ ≤ ↑K * dist a a₀ + M := by
            gcongr
            . exact lipschitzWith_iff_dist_le_mul.1 hgl a a₀
            . exact lp.norm_apply_le_norm top_ne_zero (f a₀) i
```

Comment (PatrickMassot) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:176]: I was scrolling down the page, saw Thomas' suggestion and thought: quick, I need to write a PM to Thomas before Heather sees this. But it was too late.

Comment (tb65536) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:176]: Old habits die hard... I'm too used to golfing to term-mode.

File: Mathlib/Analysis/NormedSpace/lpSpace.lean [hunk 11]
```diff
@@ -1217,3 +1220,43 @@ instance completeSpace : CompleteSpace (lp E p) :=
 end Topology
 
 end lp
+
+section Lipschitz
+
+local notation "ℓ^∞(" ι ")" => lp (fun i : ι => ℝ) ∞
```
Comment (kmill) [inline Mathlib/Analysis/NormedSpace/lpSpace.lean:1226]: Now that you have scoped notation, you should be able to do `open scoped lp` to get the notation back in this context without needing to restate a `notation` like this.

Comment (tb65536) [inline Mathlib/Analysis/NormedSpace/lpSpace.lean:1226]: Does `open lp` work instead?

Comment (chriscamano) [reply Mathlib/Analysis/NormedSpace/lpSpace.lean]: Yes

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 12]
```diff
@@ -112,21 +110,61 @@ end KuratowskiEmbedding
...
+  -- Construct the coordinate-wise extensions
+  have : ∀ i : ι, ∃ g : α → ℝ, LipschitzWith K g ∧ EqOn (fun x => f x i) g s
+  · intro i
+    apply LipschitzOnWith.extend_real -- use the nonlinear Hahn-Banach theorem here!
+    revert i
+    rw [← LipschitzOnWith.coordinate]
+    exact hfl
+  choose g hgl hgeq using this
+  rcases s.eq_empty_or_nonempty with rfl | ⟨a₀, ha₀_in_s⟩
+  . exact ⟨fun _ ↦ 0, LipschitzWith.const' 0, by simp⟩
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:155]:
```suggestion
  . exact ⟨0, LipschitzWith.const' 0, by simp⟩
```

File: Mathlib/Topology/MetricSpace/Kuratowski.lean [hunk 13]
```diff
@@ -112,21 +110,61 @@ end KuratowskiEmbedding
...
+  · -- Show that the extensions are uniformly bounded
+    have hf_extb : ∀ a : α, Memℓp (swap g a) ∞
+    . apply LipschitzWith.uniformly_bounded (swap g) hgl a₀
+      use ‖f a₀‖
+      rintro - ⟨i, rfl⟩
+      simp_rw [←hgeq i ha₀_in_s]
+      exact lp.norm_apply_le_norm top_ne_zero (f a₀) i
+    -- Construct witness by bundling the function with its certificate of membership in ℓ^∞
+    let f_ext' : α → ℓ^∞(ι) := fun i ↦ ⟨swap g i, hf_extb i⟩
+    refine ⟨f_ext', ?_, ?_⟩
```
Comment (tb65536) [inline Mathlib/Topology/MetricSpace/Kuratowski.lean:165]: If you write `refine' ⟨fun i ↦ ⟨swap g i, _⟩, _, _⟩`, then you can move `hf_extb` as an extra goal from the refine.

**Review by tb65536 — COMMENTED** [review]
Some potential golfs/refactors:

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 13 above)
Comment (ian-bunner) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:163]: I like the other two refactors, but I think that it is clearer if we explicitly name our witness and show how it is constructed. I think it would take longer for someone to go through the proof if they have to make the realization themself that swap g i is the desired extension. One sticking point in the proof for us was also this translation back and forth between functions from alpha to iota to R and functions from alpha to l^infty(iota, R). Here it is clear that we get from a function from alpha to iota to R to one from alpha to l^infty(iota, R) by bundling it with a certificate that it is bound. If we instead leave it as inferred and it pops up as an extra goal I think that is more confusing. Also, with no explicit mention of f_ext the term hf_extb  ("hypothesis that f_ext is bounded") would have to be changed and given that I cannot think of a meaningful way to name it I think that that is strong evidence that the way the proof is structured now is fairly natural.


However, I am very new and if I've completely misunderstood this suggestion or there is a general consensus on this type of issue I'm certainly open to the change.

Now that we have replaced all mentions of f_ext with swap g i, I do think we should replace f_ext' with f_ext.

Comment (tb65536) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:163]: You wouldn't have to choose a new name for `hf_extb`, since it would just become an extra goal:
```
refine' ⟨fun i ↦ ⟨swap g i, _⟩, _, _⟩
    . apply LipschitzWith.uniformly_bounded (swap g) hgl a₀
      use ‖f a₀‖
      rintro - ⟨i, rfl⟩
      simp_rw [←hgeq i ha₀_in_s]
      exact lp.norm_apply_le_norm top_ne_zero (f a₀) i
    · rw [LipschitzWith.coordinate]
      exact hgl
    · intro a hyp
      ext i
      exact (hgeq i) hyp
```
But I do see what you're saying about how it's nice to make it clear what the extension is, and I'm fine with keeping the current proof structure. I do like renaming `f_ext'` to `f_ext`, and using `refine'` rather than `refine`:
```
    let f_ext : α → ℓ^∞(ι) := fun i ↦ ⟨swap g i, hf_extb i⟩
    refine ⟨f_ext, _, _⟩
```

**Comment by PatrickMassot** [comment]
bors merge

File: Mathlib/Topology/MetricSpace/Kuratowski.lean (hunk 13 above)
Comment (ian-bunner) [reply Mathlib/Topology/MetricSpace/Kuratowski.lean:163]: Ah I see! Thanks for all the helpful comments!
